US04659718
A stirred solution of 7-fluoro-1H-3,1-benzoxazine-2,4-dione (9.0 g) in dimethylacetamide (100 ml) at 18.5° was treated portionwise with sodium hydride (80% dispersion in mineral oil, 1.65 ) during 10 minutes. The mixture was stirred for a further 75 minutes. Methyl iodide (7.81 g) was then added dropwise to the stirred mixture during 5 minutes and the mixture was stirred for a further 18.5 hours at ambient temperature. Solvent (60 ml) was removed by distillation in vacuo. The residue was cooled to 3° and poured into ice-water. The resulting precipitate was collected, dried in vacuo and recrystallised from dichloromethane to give 7-fluoro-1-methyl-1H-3,1-benzoxazine-2,4-dione m.p. 158°-159.5°.

reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 9.0 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 7.81 g | CI | CH3I
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | 7-fluoro-1-methyl-1H-3,1-benzoxazine-2,4-dione | FC1=CC2=C(C(OC(N2C)=O)=O)C=C1 | C9H6FNO3
